US05494928
A mixture of 1.6 g of 1-acetyl-5-fluoroindolin-3-one, 1.9 g of powdered sodium hydroxide and 28 ml of dimethyl sulfate was stirred at room temperature for two hours. After the addition of 240 ml of saturated sodium bicarbonate solution the mixture was stirred overnight and subsequently filtered. The residue was taken up in 100 ml of ether and 100 ml of ethyl acetate. The solution was dried over sodium sulfate, filtered and evaporated. There were obtained 1.47 g (86%) of 1-acetyl-5-fluoro-3-methoxyindole as greenish crystals with m.p. 124°-125°.

reactant | 1-acetyl-5-fluoroindolin-3-one | 1.6 g | C(C)(=O)N1CC(C2=CC(=CC=C12)F)=O | C10H8FNO2
reactant | sodium hydroxide | 1.9 g | [OH-].[Na+]
reactant | dimethyl sulfate | 28 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium bicarbonate | 240 ml | C([O-])(O)=O.[Na+]
product | 1-acetyl-5-fluoro-3-methoxyindole | 1.47 g, 86% | C(C)(=O)N1C=C(C2=CC(=CC=C12)F)OC | C11H10FNO2
